US06605430B1
[AB004059], [AF010471], [AF036940], [AF053735], [AF053736], [AF079317], [AF004283], [AF004284], [PSENAPDOXA], [PSENAPDOXB], [PSENDOABC], [PSEORF1], [PSU49496] naphthalene-1,2-dioxygenase;
[BSU62430] 2,4-dinitrotoluene dioxygenase; [PSU49504] 2-nitrotoluene dioxygenase.

reactant | 2,4-dinitrotoluene | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6N2O4
reactant | 2-nitrotoluene | [N+](=O)([O-])C1=C(C=CC=C1)C | C7H7NO2
product | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
